US07713993B2
(2) Synthesis of (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid
Ethyl diethylphosphonoacetate (5.7 g) and lithium hydroxide monohydrate (1.3 g) were sequentially added to a mixed solution of 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde (5.0 g) in THF (20 mL) and ethanol (5 mL), and the reaction solution was stirred at room temperature for nine hours. A 2 N sodium hydroxide solution (20 mL) was added to the reaction solution, and the reaction solution was stirred at room temperature for 12 hours. The reaction solution was cooled to 0° C., and 2 N hydrochloric acid (20 mL) was added to the reaction solution. The resulting precipitate was collected by filtration. The resulting precipitate washed with water and ethyl acetate to obtain 5.1 g of the title compound. The property values of the compound are as follows.

reactant | Ethyl diethylphosphonoacetate | 5.7 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | lithium hydroxide monohydrate | 1.3 g | O.[OH-].[Li+]
reactant | 3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde | 5.0 g | COC=1C=C(C=O)C=CC1N1C=NC(=C1)C | C12H12N2O2
reactant | sodium hydroxide | 2 N, 20 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2 N, 20 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid | 5.1 g | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)O | C14H14N2O3
